### PR TITLE
[Merged by Bors] - feat(Topology/Algebra/Module/StrongTopology): add monotonicity lemmas

### PR DESCRIPTION
**Pull request by mcdoll**
---

- [x] depends on: #11470
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Module/StrongTopology.lean [hunk 1]
```diff
@@ -102,6 +103,10 @@ instance instUniformSpace [UniformSpace F] [UniformAddGroup F]
     (by rw [UniformConvergenceCLM.instTopologicalSpace, UniformAddGroup.toUniformSpace_eq]; rfl)
 #align continuous_linear_map.strong_uniformity UniformConvergenceCLM.instUniformSpace
 
+theorem uniformSpace_eq [UniformSpace F] [UniformAddGroup F] (𝔖 : Set (Set E)) :
+    instUniformSpace σ F 𝔖 = UniformSpace.comap DFunLike.coe (UniformOnFun.uniformSpace E F 𝔖) := by
+  rw [instUniformSpace, UniformSpace.replaceTopology_eq]
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Module/StrongTopology.lean:108]: While you're at it, could you add the topology statement?

File: Mathlib/Topology/Algebra/Module/StrongTopology.lean [hunk 2]
```diff
@@ -208,6 +213,20 @@ theorem tendsto_iff_tendstoUniformlyOn {ι : Type*} {p : Filter ι} [UniformSpac
...
+    instUniformSpace σ F 𝔖₁ ≤ instUniformSpace σ F 𝔖₂ := by
+  simp_rw [uniformSpace_eq]
+  exact UniformSpace.comap_mono (UniformOnFun.mono (le_refl _) h)
+
+theorem topologicalSpace_mono [TopologicalSpace F] [TopologicalAddGroup F] (h : 𝔖₂ ⊆ 𝔖₁) :
+    instTopologicalSpace σ F 𝔖₁ ≤ instTopologicalSpace σ F 𝔖₂ := by
+  letI := TopologicalAddGroup.toUniformSpace F
+  haveI : UniformAddGroup F := comm_topologicalAddGroup_is_uniform
+  simp_rw [← uniformity_toTopologicalSpace_eq]
+  exact UniformSpace.toTopologicalSpace_mono (uniformSpace_mono σ F h)
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Module/StrongTopology.lean:228]: Is it significantly more annoying to allow the uniform and topological structures to vary, as in `UniformOnFun.mono`? I would suggest doing it while you're at it, but if there's anything annoying we can also leave this for later (I suspect we will need it at some point).

**Review by ADedecker — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Topology/Algebra/Module/StrongTopology.lean (hunk 2 above)
Comment (mcdoll) [reply Mathlib/Topology/Algebra/Module/StrongTopology.lean:234]: This is kinda annoying since we don't have the `UniformSpace` arguments are not named, the statement becomes the old @-hell or we have to introduce more local notation. I think naming all `UniformSpace` arguments is cleaner, but there seems some funny problem with the order of arguments (Lean seems to not like named instances coming after explicit arguments).

File: Mathlib/Topology/Algebra/Module/StrongTopology.lean (hunk 1 above)
Comment (mcdoll) [reply Mathlib/Topology/Algebra/Module/StrongTopology.lean:115]: done

**Comment by mcdoll** [comment]
Thanks for the review!
bors merge
